US07683185B2
6-(4-Dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid methyl ester (6d).
To a solution of 6-bromo-hexa-2,4-dienoic acid methyl ester (1.15 g, 5.6 mmol) and 4-dimethylamino-benzenethiol (0.86 g, 5.6 mmol) in tetrahydrofuran (30 mL) was added dropwise triethylamine (1.6 mL, 11.4 mmol) under an atmosphere of argon. The mixture was stirred at 20° C. for 30 minutes, then filtered. The filtrate was concentrated under reduced to pressure and the residue was dissolved in ethyl acetate (100 mL). This solution was washed with saturated aqueous sodium hydrogen carbonate (50 mL), demineralised water (50 mL) and brine (50 mL). The organic layer was dried over anhydrous MgSO4, filtered and concentrated under reduced pressure to give a yellow oil that was purified by column chromatography (9:1 to 7:3 60-80° C. petroleum ether:diethyl ether, all eluant containing 1% triethylamine by volume). The solid was recrystallised from diethyl ether/petroleum ether to give the title compound (1.0 g, 64%) as a white solid, mp 68-70° C.

reactant | 6-bromo-hexa-2,4-dienoic acid methyl ester | 5.6 mmol, 1.15 g | COC(C=CC=CCBr)=O | C7H9BrO2
reactant | 4-dimethylamino-benzenethiol | 5.6 mmol, 0.86 g | CN(C1=CC=C(C=C1)S)C | C8H11NS
reactant | triethylamine | 11.4 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 6-(4-Dimethylamino-phenylsulfanyl)-hexa-2,4-dienoic acid methyl ester | 1.0 g, 64% | COC(C=CC=CCSC1=CC=C(C=C1)N(C)C)=O | C15H19NO2S
